US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}ethanone
Following general procedure A-2, tert-butyl trans-4-[3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate (46 mg, 0.085 mmol) was reacted with TFA (2 mL) to afford the desired product (19.4 mg, 51%) as an orange solid: 1H NMR (500 MHz, DMSO-d6+D2O) δ 8.92 (s, 1H), 8.20 (s, 1H), 8.04 (d, J=8.9 Hz, 1H), 7.89 (d, J=8.7 Hz, 1H), 7.63 (s, 2H), 4.09 (s, 1H), 3.20-3.11 (m, 1H), 2.68 (s, 3H), 2.26 (d, J=12.7 Hz, 2H), 2.08 (d, J=10.1 Hz, 2H), 1.69-1.58 (m, 2H), 1.57-1.46 (m, 2H); ESI MS m/z 444 [C23H23Cl2N3O2+H]+; HPLC>99% (AUC), tR=8.70 min.

reactant | tert-butyl trans-4-[3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.085 mmol, 46 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C28H31Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}ethanone | 19.4 mg, 51% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(C)=O | C23H23Cl2N3O2
